US04602029
Preparation of 1-Methoxyethyl-3-trichloromethylthio-5-methylhydantoin
A stirred mixture of 8.6 g (0.05 mole) 1-methoxyethyl-5-methylhydantoin (the product of Example 12), 10.2 g (0.055 mole) trichloromethylsulfenyl chloride and 1.0 g Aliquat® 336 in 100 ml methylene chloride was cooled in an ice bath. To that mixture a precooled sodium hydroxide solution (5.0 g of 50% sodium hydroxide diluted to 25 g) was added at once. After the addition, the temperature of the reaction mixture increased from 5° to 15° C. After 5 minutes the ice bath was removed; stirring was continued for about 25 minutes. The aqueous phase was separated. The organic phase was dried and stripped to give an oil. The oil was washed with hexane to give 14.1 g of a semi-solid. The semi-solid was taken up in 50 ml chloroform and applied to a column of 225 g silica gel; elution with 2% methanol in chloroform gave 10.1 g of the above-identified product as a viscous orange oil.

reactant | 1-methoxyethyl-5-methylhydantoin | 0.05 mole, 8.6 g | COC(C)N1C(=O)NC(=O)C1C | C7H12N2O3
reactant | trichloromethylsulfenyl chloride | 0.055 mole, 10.2 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | sodium hydroxide | 5.0 g | [OH-].[Na+]
catalyst | Aliquat® 336 | 1.0 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Methoxyethyl-3-trichloromethylthio-5-methylhydantoin | 14.1 g | COC(C)N1C(=O)N(C(=O)C1C)SC(Cl)(Cl)Cl | C8H11Cl3N2O3S
